US03983092
1,3,3-Trimethyl-1-phenylindane
To 6.0 kg. of 62% sulfuric acid at 50°C was added 1.0 kg. of α-methyl styrene over a 5 minute period. The mixture was refluxed (145°C) for 20 hours. After cooling, the lower acid phase was drawn off and discarded. The organic phase was washed with sulfuric acid several times and then with water several times. The product was recrystallized from methanol which afforded 750 g of white crystals with a melting point of 50.5°-52.0°C. The yield was 75%.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | α-methyl styrene | CC(=C)C1=CC=CC=C1 | C9H10
product | 1,3,3-Trimethyl-1-phenylindane | 750 g, yield was 75% | CC1(CC(C2=CC=CC=C12)(C)C)C1=CC=CC=C1 | C18H20
